Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
ceftriaxone
 
Attending: ___.
 
Chief Complaint:
fever, malaise 
 
Major Surgical or Invasive Procedure:
___ Right hip washout with liner/head replacement 
___ DES placed in LAD, NSTEMI

 
History of Present Illness:
___ male with h/o R Hip osteoarthritis s/p THA in ___ 
c/b septic arthritis s/p I and D with liner exchange (Dr. 
___,
___ discharged on Ceftriaxone (2g q24), biliary stent by
ERCP ___ transfer from outside hospital for concern for
septic arthritis.

Relevant recent medical history: Patient was admitted ___ to
___ with septic shock (renal failure, elevated lactate,
thrombocytopenia) secondary to E. Coli bacteremia, likely source
of R ureteral calculus and pyelonephritis, s/p cystoscopy and R
ureteral stent, also c/b elevated LFTs. He improved on IV
ceftriaxone, then decompensated again and was found to have a
right septic hip joint ___ E coli urosepsis, transferred to
___. Of note, he had ERCP ___ with stent placement in CBD,
placed for h/o sepsis/transaminitis/jaundice despite lack of
filling defects (stent needs to be removed 3 mo after 
placement);
LFTs improved after, thought to be ___ cholestasis. Ortho
performed R hip I&D with head and liner exchange ___. He was
planned for 6 weeks of IV ABx (ceftriaxone 2g q24h; PICC in 
Right
arm), and Lovenox 40mg sc qd for 4 weeks after orthopedic
procedure. 

___ he was admitted to ___, after presenting with
dry cough, fatigue/malaise, noted to be febrile 102 and
tachycardic . Got vanc/zosyn ___. CXR, CT
chest/abdomen/pelvis were all initially read as negative, but on
further review a possible R hip abscess/gas was noted by
radiology. Patient was transferred to ___ for further
evaluation. 

In the ED, Patient was found to again be tachycardic up to 130s,
febrile 101, MAP 65 (not his baseline). Improved with fluids.
Patient was also nauseous and having bilious emesis. LFTs
improved from prior. Leukocytosis is increased from outside
hospital labs. Obtain CT scan of the abdomen pelvis which did 
not
show any signs of obstruction. Again was seen gas and fluid in
the right hip. Orthopedics was consulted. In discussion with
orthopedics, they have low suspicion for septic arthritis as
patient is able to move his right hip and has actually improved
pain from prior. Ortho removed his staples. They recommend
medicine admission and will follow. They will discuss need for 
___
guided tap. Discussed with ERCP as patient had recent ERCP. Do
not think symptoms attributed to recent ERCP.
 
CT A/P Showed:
1. Status post right total hip arthroplasty with locule of gas 
noted in the right hip joint space is well as a joint effusion 
that appears to be
communicating with a collection posterior to the greater 
trochanter measuring
2.9 x 5.4 by cm. In combination with fever and leukocytosis, 
this finding is
highly suspicious for postoperative infection.
2. Trace left pleural effusion.
3. Right nephroureteral stent appears to be in appropriate 
position.
4. Several bilateral nonobstructing renal calculi.

He Received: 
___ 01:37 IV Acetaminophen IV 1000 mg ___  
___ 03:01 IV Piperacillin-Tazobactam  ___

Upon arrival to the floor, patient does not have any specific
complaints. He reports presenting to ___ after having a 
low
temp noted by ___ a few days ago. He has a dry cough that 
started
a few weeks ago (after his admission for septic arthritis). He
sometimes has dry heaves after coughing fits, and occasionally
has a small amount of post-tussive liquid emesis, happens about
___ times a week. No hematesis or hemoptysis. Has been having
loose stools different from his baseline, but only 1 BM
yesterday. Reprots urinary frequency. Denies CP, SOB, N/V,
abdominal pain, constipation, hematochezia, melena, dysuria. He
denies any increased pain or limitation in mobility of his R 
hip.
He has been ambulating at home with crutches without problems.  

 
Past Medical History:
R hip osteoarthritis s/p THA in ___
total hip replacement (___) c/b septic arthritis s/p I&D with 
liner exchange (Dr. ___, ___
biliary stent by ERCP ___
admitted ___ to ___ with septic shock (renal failure, 
elevated lactate, thrombocytopenia) secondary to E. Coli 
bacteremia, likely source of R ureteral calculus and 
pyelonephritis, s/p cystoscopy and R ureteral stent
 
Social History:
___
Family History:
He said he is unsure at this time, but doesn't think he has any
pertinent family history.
 
Physical Exam:
=============================
ADMISSION PHYSICAL EXAM:  
=============================
VITAL SIGNS:  99.4, 124 / 67, 111, 20, 97 ra 
GENERAL:  WD older male, in bed in NAD 
HEENT: MMM  
NECK:  supple 
CARDIAC:  slightly tachycardic, normal rhythm, normal S1 S2, no
m/r/g
LUNGS:  CTAB, comfortable on RA 
ABDOMEN:  soft, nondistended, +BS, nontender to palpation 
EXTREMITIES:  soft tissue ___ edema, warm and well perfused  
NEUROLOGIC:  alert and oriented, responding appropriately to
questioning, moving all extremities, nonfocal 
SKIN:  no obvious rashes noted, warm. Wound R hip as below.  
MSK: R hip with large posterior incision, staples removed,
appearing c/d/I. Slight pinkness around the edges at the 
inferior
parts. Incision and R hip are nontender to palpation, did not
appreciate induration or fluctance. Mostly preserved ROM of R
hip, movement ___ elicits pain more at knees than at hip. 
Motor
strength ___, SILT. 

============================
DISCHARGE PHYSICAL EXAM: 
============================
VS: T: 98.0 PO  BP: 94 / 53  HR: 68 RR: 18  O2: 97 Ra 
Gen: Elderly man lying comfortably in bed. NAD.
CV: RRR. Elevated JVP to base of neck.
Pulm: Non-labored breathing. Bilateral wheezes with expiration
Abd: Soft, NT, ND, +BS.
Ext: Mild 1+ pitting edema bilaterally. Compression boots.  
Right thigh slightly larger than left, no visible hematoma. 
Right thigh no longer tender to palpation. Extremities warm to 
the touch.
Neuro: AOx3. Normal speech.
 
Pertinent Results:
======================
ADMISSION LABS: 
======================
___ 01:20AM BLOOD WBC-36.4*# RBC-3.08* Hgb-9.0* Hct-27.7* 
MCV-90 MCH-29.2 MCHC-32.5 RDW-13.5 RDWSD-44.4 Plt ___
___ 01:20AM BLOOD Glucose-106* UreaN-13 Creat-0.9 Na-139 
K-3.7 Cl-101 HCO3-22 AnGap-16
___ 01:20AM BLOOD ALT-29 AST-44* AlkPhos-215* TotBili-0.8
___ 01:20AM BLOOD cTropnT-0.09*
___ 01:00PM BLOOD calTIBC-155* Hapto-<10* ___ 
TRF-119*
___ 01:37AM BLOOD Lactate-1.8

=======================
DISCHARGE LABS: 
=======================
___ 06:09AM BLOOD WBC-7.8 RBC-2.78* Hgb-8.2* Hct-26.2* 
MCV-94 MCH-29.5 MCHC-31.3* RDW-16.6* RDWSD-56.0* Plt ___
___ 06:09AM BLOOD Glucose-88 UreaN-21* Creat-0.8 Na-146 
K-4.0 Cl-112* HCO3-24 AnGap-10
___ 06:03AM BLOOD ALT-51* AST-49* LD(LDH)-652* AlkPhos-270* 
TotBili-1.2
___ 06:09AM BLOOD Calcium-7.9* Phos-3.4 Mg-1.9

=======================
RELEVANT LABS: 
=======================
___ 07:00AM BLOOD PEP-PROFOUND H FreeKap-43.0* 
FreeLam-54.0* Fr K/L-0.80
___ 02:37AM BLOOD ___ PTT-29.9 ___
___ 06:03AM BLOOD ___ PTT-26.6 ___
___ 06:03AM BLOOD ALT-51* AST-49* LD(___)-652* AlkPhos-270* 
TotBili-1.2
___ 01:04PM BLOOD CK-MB-1 cTropnT-0.47*
___ 05:49AM BLOOD ___
___ 01:00PM BLOOD calTIBC-155* Hapto-<10* ___ 
TRF-119*
___ 06:44AM BLOOD %HbA1c-5.2 eAG-103
___ 01:20AM BLOOD CRP-159.1*

=======================
MICROBIOLOGY: 
=======================
___ R FEMUR
            SENSITIVITIES: MIC expressed in MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--     8 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

=======================
IMAGING: 
=======================
___ CXR
Right PIC line ends in the low SVC.  Lungs are grossly clear.  
No pleural 
effusions.  Heart size normal.  No pneumothorax. 

___ CT RLE
1. 20.9 x 9.7 x 4.5 cm intramuscular hematoma centered in the 
right vastus 
lateralis.  No active extravasation identified. 
2. Right hip joint effusion with small foci of gas seen in the 
joint space.  Given the time interval since surgery in early 
___, in the absence of recent known instrumentation of the 
right hip, findings raise concern for possible right hip joint 
infection.  Clinical correlation is requested. 
3. Diffuse subcutaneous soft tissue edema and skin thickening. 
4. Patent iliac and right lower extremity arterial vasculature, 
with scattered areas of mild luminal narrowing due to mixed 
calcified and noncalcified atherosclerotic plaque, as above.  
Note, due to contrast bolus timing, the study cannot evaluate 
for the presence or absence of venous thrombosis. 

___ CTA CHEST
1. No evidence of pulmonary embolism up to the segmental level. 
2. No aortic abnormality. 
3. Multifocal opacities, possibly pneumonia, involving bilateral 
upper and 
right middle lobe.  Pleural effusions 

___ CT ABD PELVIS
1. Right total hip arthroplasty with locule is of gas noted in 
right hip joint and moderate joint effusion, which appears 
relatively unchanged compared to prior.  Interval resolution of 
adjacent collection. 
2. Moderate bilateral, nonhemorrhagic pleural effusions with 
adjacent 
compressive atelectasis without focal consolidation. 
3. Unchanged common bile duct stent, no evidence of biliary 
dilatation.  
Unchanged nephroureteral stent, no hydronephrosis.  Again noted 
are several non-obstructing renal calculi, more notable on the 
right. 

___ LIVER AND GALLBLADDER US
1.  No evidence of intrahepatic or extrahepatic biliary 
dilatation.  Note is made of the indwelling CBD stent placed by 
ERCP. 
2.  No evidence of gallbladder distention or stones. 
3.  Incidental note of small to moderate right and trace left 
pleural 
effusions. 

___ CARDIAC CATH AND STENT TO LAD
Impressions:
1. NSTEMI with hazy mid LAD lesion treated with a long DES.
2. The RCA has a TO with bridging collaterals
Recommendations
1. 6 Months of DAPT

___ CARDIAC STRESS TEST
IMPRESSION: No anginal type symptoms or ischemic EKG changes. 
Nuclear 
report sent separately. 

___ CARDIAC STRESS PERFUSION STUDY
1. Predominantly fixed, small, severe perfusion defect involving 
the RCA 
territory. 
2. Increased left ventricular cavity size.  Mild systolic 
dysfunction with 
hypokinesis of the basal inferior wall.   

___ ECHO
Regional left ventricular systolic dysfunction c/w CAD. Normal 
right ventricular cavity size and systolic function. Moderate 
mitral regurgitation, likely related to tethering of the 
posterior leaflet.  

 
Brief Hospital Course:
Mr. ___ is an ___ yo previously healthy man with infected 
prosthetic hip s/p I&D, readmitted for recurrent septic 
arthritis. Repeat wash out was c/b NSTEMI s/p LAD PCI ___. 
Course was further c/b hypoxemic respiratory failure (requiring 
MICU), HAP, autoimmune hemolytic anemia (likely ___ ceftriaxone) 
and large R thigh hematoma.

# SEVERE SEPSIS
# SEPTIC ARTHRITIS OF RIGHT PROSTHETIC HIP
Likely due to E. coli UTI ___, with wash outs ___ and ___ 
growing E coli. Still has some retained hardware. We continued 
him on cefepime while inpatient and he will continue this until 
___. ID will follow up with him outpatient. 

# NSTEMI S/P DES TO LAD
# CORONARY ARTERY DISEASE
An 80% stenosis was found in the proximal LAD on cardiac cath 
(___). A stent was placed and he was started on DAPT. No 
ongoing chest pain. He will need to continue aspirin/Plavix for 
at least 6 months, and should also continue on a statin. Avoid 
platelet transfusions given risk for stent thrombosis. 

# ACUTE HYPOXEMIC RESPIRATORY FAILURE
# ___ HOSPITAL-ACQUIRED PNEUMONIA
He was previously intubated in the ICU. He has no ongoing 
hypoxemia or symptoms. He
finished full course of vanc/cefepime x 8 days (___), 
azithro x 5 days.

# RIGHT THIGH HEMATOMA WITH ACUTE BLOOD LOSS ANEMIA
Now stable, s/p vitamin K 5 mg POx2 for elevated ___ (now 
normalized). Patient feels much better on day of discharge; no 
pain. 

# COLD AUTOIMMUNE HEMOLYTIC ANEMIA
At time of discharge, Heme/Onc suspects medication toxicity 
(ceftriaxone is most likely culprit) rather than malignancy 
since smear and flow cytometry were benign. Mycoplasma IgM was 
negative. He was continued on cefepime rather than switching to 
ceftriaxone as previously planned. Hgb stabilized after several 
blood transfusions. 

# PAROXYSMAL ATRIAL FIBRILLATION: 
He was started on amiodarone but it was stopped due to 
transaminitis on ___. Briefly on diltiazem drip, stopped with 
concern for sepsis. Now in sinus rhythm. We continued him on his 
home metoprolol. No AC given already on DAPT with persistent 
anemia and hematoma. ___ reconsider on an outpatient basis if 
his HCT improves.

# ASYMPTOMATIC HYPOTENSION
He had SBP ___ on ___, asymptomatic. Suspect predominant 
process is blood loss, with contribution from deconditioning. No 
e/o new infection, heart failure, PE, tamponade. Now resolved 
with SBP 110's-120's over the past couple of days.

# HX OF KIDNEY STONES
Nonobstructing stones were seen on CT abdomen. Wife states that 
patient's urologist (at ___ said the stones should be 
removed. They were previously not removed due to bacteremia. No 
surgical intervention during this hospitalization because of 
patient's other acute issues.

# ABNORMAL LIVER FUNCTION TESTS: 
LDH/bili elevation likely due to hemolysis. Unclear etiology for 
AST/ALT and Alk Phos elevations. Downtrending AST/ALT, LDH, and 
Alk phos. Had CBD stent placed but no obstruction seen on ERCP. 
Abdominal exam benign.

=========================
TRANSITIONAL ISSUES:
=========================
Discharge Cr: 0.8
Discharge Hgb: 8.2

Medication changes:
 [ ] Dual antiplatelet therapy (Aspirin 81 mg qd, Plavix 75 mg 
qd) started for new drug-eluting coronary stent. Should be 
continued for at least 6 months. Discuss with cardiologist 
before discontinuing.
 [ ] Cefepime 2g IV q12h was started and should be continued 
until ___ or stopped by ID.
 [ ] Atorvastatin 80 mg qd was started and should be continued.
 [ ] Folic acid 5 mg qd was started and should be continued 
until f/u with heme.
 [ ] He was CONTINUED on his home dose of metoprolol succinate 
XL 200 mg qd.

***Please obtain WEEKLY CBC with differential, BUN, Cr, CRP 
while on cefepime and FAX RESULTS to ATTN: ___ CLINIC - 
FAX: ___

Patient has follow up appointments with ID, urology, and 
gastroenterology. 

Would recheck LFTs as outpatient to ensure improving. Consider 
further workup if not.
Also may consider starting a diuretic if patient is fluid 
overloaded on exam.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. CefTRIAXone 2 gm IV Q24H 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atorvastatin 80 mg PO QPM  
3.  CefePIME 2 g IV Q12H  
4.  Clopidogrel 75 mg PO DAILY  
5.  FoLIC Acid 5 mg PO DAILY  
6.  Metoprolol Succinate XL 200 mg PO DAILY  
7.Outpatient Lab Work
Please obtain WEEKLY: CBC with differential, BUN, Cr, CRP
End date: ___
ICD10: ___.5 Infection of R prosthetic hip
ALL LAB RESULTS SHOULD BE SENT TO:
ATTN: ___ CLINIC - FAX: ___

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
=========================
PRIMARY DIAGNOSIS 
=========================
Severe sepsis
Recurrent septic arthritis of prosthetic hip
Acute hypoxemic respiratory failure
___ hospital-acquired pneumonia
Cold agglutinin autoimmune hemolytic anemia
Right thigh hematoma
Non-ST elevation myocardial infarction status post percutaneous 
coronary intervention
Coronary artery disease 
Paroxysmal atrial fibrillation
Abnormal liver function tests
Hypotension, asymptomatic

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure to care for you at ___ 
___. Please find detailed discharge instructions 
below: 

WHY WERE YOU ADMITTED TO THE HOSPITAL? 
- You were admitted because you had fevers and a hip infection.

WHAT HAPPENED TO YOU IN THE HOSPITAL? 
- You had findings on imaging that were concerning for a right 
hip joint infection. 
- You received IV antibiotics to treat your infection. 
- You went to the operating room for a "washout" of your right 
hip joint and replacement of parts of the joint prosthesis. The 
surgeons confirmed that your right hip joint was infected. 
- You had a heart evaluation prior to surgery, which showed that 
you have underlying coronary artery disease. We started you on 
preventative medications to treat your coronary artery disease 
(aspirin, atorvastatin, clopidogrel). You also received a stent 
in one of the major arteries of your heart.
- Your red blood cell count was low and you received several 
blood transfusions
- You had a blood collection in your right thigh. It stabilized 
on its own and did not require intervention.

WHAT SHOULD YOU DO WHEN YOU LEAVE THE HOSPITAL? 
- Please take all your medications as prescribed. It is VERY 
important that you continue your aspirin and Plavix 
(clopidogrel). If you do not take these medications, you will be 
at risk of having a heart attack. 
- Please go to all your follow up appointments as scheduled (see 
below). 
- Please work with physical therapy to regain your strength. 

We wish you the best,

- Your ___ treatment team 
 
Followup Instructions:
___